Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Hibiclens
 
Attending: ___.
 
Chief Complaint:
Pain in ventral hernia
 
Major Surgical or Invasive Procedure:
___ Repair of ventral hernia with mesh

 
History of Present Illness:
___ F with morbid obesity referred from emergency department with 
1 month of epigastric pain/tenderness associated with PO intake 
but no nausea/vomiting or change in bowel habits.She currently 
states that coughing and sneezing causes her abdominal pain, but 
denies any fever, chills, diarrhea, constipation, and any other 
GI or GU problems. 
 
Past Medical History:
morbid obesity 
 
Social History:
Lives with parents. Works as a ___. 
 
Physical Exam:
Admission Physical Exam:
Vital Signs sheet entries for ___:
BP: 141/89. Heart Rate: 80. Temperature: 97.1. Resp. Rate: 16.
Pain Score: 4. O2 Saturation%: 100.
NAD
RRR
EWOB, CTAB
Abdomen soft, nondistended, obese, mildly tender to palpation at
epigastrum, bulge palpated on standing, noted 1-2cm fascial
midline defect

Discharge Physical Exam:
VS:98.4, 85, 132/84, 18, 96% RA
Gen: alert, interactive, sitting up in bed.
HEENT: (-)LAD, mucous membranes moist, trachea midline, EOMI, 
PERRL.
CHEST: Clear to auscultation bilaterally, (-) cyanosis.
ABDOMEN: obese,(+) BS x 4 quadrants, soft, mildly tender to 
palpation 
incisionally, non-distended. Incisions: clean, dry and intact, 
dressed and closed with staples.
EXTREMITIES: Warm, well perfused, pulses palpable, (-) edema
 
Pertinent Results:
___ CT Abd/Pelvis
1. Markedly limited study due to patient body habitus.
2. No acute intra-abdominal process.
3. Large fat and small bowel containing paraumbilical hernia 
without evidence for upstream obstruction.
 
Brief Hospital Course:
Ms. ___ is a ___ yo F with morbid obesity who was admitted to 
the Acute Care Surgery Service ___ on ___ for repair of 
ventral hernia with mesh. She tolerated the procedure well. 
Please see operative report for details. She was extubated, 
taken to the PACU in stable condition and then transferred to 
the surgical floor for further pain management. 

On POD1 her diet was advanced to regular which to tolerated 
well. She was transitioned to PO pain medications with good 
effect. The patient received subcutaneous heparin, venodyne 
boots were used, and she was encouraged to ambulate as soon as 
possible. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was better 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
ibuprofen
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*40 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
hold for diarrhea 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
3. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
You may take ___ tabs every 4 hours depending on pain level. Use 
lowest effective dose. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ventral hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ on ___ for a repair of a ventral 
hernia. You are now doing well, tolerating a regular diet, 
ambulating without assistance, and your pain is better 
controlled with medications. You are now ready to be discharged 
home to continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed. As you pain decreases, 
decrease your use (dose and frequency) of oxycodone. 

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.

 
Followup Instructions:
___